US07217714B1
1-(2,2,2-Trifluoroacetyl)-4-piperidinecarboxylic acid
Trifluoroacetic anhydride (32.5 g, 155 mmol) was added dropwise to a suspension of 4-piperidinecarboxylic acid (16.7 g, 130 mmol) in dichloromethane (900 ml) at 0° C. and stirred for 12 hours. The reaction mixture was washed with water and brine, dried (MgSO4), filtered and evaporated under reduced pressure to afford the title compound as a white solid, 10.0 g.

reactant | Trifluoroacetic anhydride | 155 mmol, 32.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-piperidinecarboxylic acid | 130 mmol, 16.7 g | N1CCC(CC1)C(=O)O | C6H11NO2
solvent | dichloromethane | 900 ml | ClCCl | CH2Cl2
product | 1-(2,2,2-Trifluoroacetyl)-4-piperidinecarboxylic acid | FC(C(=O)N1CCC(CC1)C(=O)O)(F)F | C8H10F3NO3
